US06121307
[2-(6-Fluorochroman-8-yloxy)ethyl]-[3-(5-fluro-1H-indol-3-yl)propyl]-amine (9a)
A solution 2-(6-fluorochroman-8-yloxy)ethylchloride (0.25 g, 7.1 mmol), 3-(5-fluoro-1H-indol-3-yl)-propylamine (0.42 g, 2.2 mmol) and triethylamine (0.22 g, 2.2 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 14 hours at 90° C. The mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×150 ml), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride plus ammonium hydroxide) afforded 0.25 g (60%) as a white solid: mp 137-138.5° C.

reactant | 2-(6-fluorochroman-8-yloxy)ethylchloride | 7.1 mmol, 0.25 g | FC=1C=C2CCCOC2=C(C1)OCCCl | C11H12ClFO2
reactant | 3-(5-fluoro-1H-indol-3-yl)-propylamine | 2.2 mmol, 0.42 g | FC=1C=C2C(=CNC2=CC1)CCCN | C11H13FN2
reactant | triethylamine | 2.2 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [2-(6-Fluorochroman-8-yloxy)ethyl]-[3-(5-fluro-1H-indol-3-yl)propyl]-amine | FC=1C=C2CCCOC2=C(C1)OCCNCCCC1=CNC2=CC=C(C=C12)F | C22H24F2N2O2
